US06399606B1
Indanyl 3-{[2-(Acetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoate
The title compound was prepared from 3-{[2-(acetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoic acid and indanol as described in the above Example 26 in 55% yield; ESMS (M+1+) 427.

reactant | 3-{[2-(acetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoic acid | C(C)(=O)NCCSCC(CC(=O)O)C(C=1C=NC=CC1)=O | C14H18N2O4S
reactant | indanol | C1(CCC2=CC=CC=C12)O | C9H10O
product | Indanyl 3-{[2-(Acetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoate | 55% yield | C(C)(=O)NCCSCC(CC(=O)OC1CCC2=CC=CC=C12)C(C=1C=NC=CC1)=O | C23H26N2O4S
